US08278343B2
Preparation 76: 1-Cyclopropanecarbonyl-3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
Triethylamine (0.37 mL, 2.7 mmol) was added to a stirred solution of 3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester (see Preparation 65) (300 mg, 0.87 mmol) in dichloromethane (10 mL) and the resulting mixture cooled to 0° C. Cyclopropanecarbonyl chloride (0.08 mL, 0.87 mmol) was added and the reaction mixture stirred at room temperature for 16 hours. The mixture was partitioned between water (50 mL) and dichloromethane (50 mL). The organic layer was separated, washed brine (50 mL), dried over magnesium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with 15% ethyl acetate in hexane to afford the title compound as a pale yellow solid (305 mg, 85%).

reactant | Triethylamine | 2.7 mmol, 0.37 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester | 0.87 mmol, 300 mg | C(C)OC(=O)C1(CNCC1)COC1=CC=C(C=C1)C1=CC=C(C=C1)F | C20H22FNO3
reactant | Cyclopropanecarbonyl chloride | 0.87 mmol, 0.08 mL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-Cyclopropanecarbonyl-3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester | 305 mg, 85% | C(C)OC(=O)C1(CN(CC1)C(=O)C1CC1)COC1=CC=C(C=C1)C1=CC=C(C=C1)F | C24H26FNO4
